US07304191B2
Synthesis of 2,2,2-trichloroethyl 2-fluoroacrylate
12 g of 2-fluoroacryloyl chloride and 26 g of 2,2,2-trichloroethanol were introduced into a round-bottomed flask placed in an ice bath. 17 g of triethylamine were added portionwise to the reaction mixture. After reacting for an additional 3 h, approximately 50 ml of water were added. The aqueous and organic phases were subsequently separated and the organic phase was analysed by GC. The conversion of the 2,2,2-trichloroethanol was 52%. The yield of ester, based on the amount of 2-fluoroacrylic acid employed in the first stage, was 67%.

reactant | 2-fluoroacryloyl chloride | 12 g | FC(C(=O)Cl)=C | C3H2ClFO
reactant | 2,2,2-trichloroethanol | 26 g | ClC(CO)(Cl)Cl | C2H3Cl3O
reactant | triethylamine | 17 g | C(C)N(CC)CC | C6H15N
solvent | water | approximately 50 ml | O | H2O
product | 2,2,2-trichloroethyl 2-fluoroacrylate | FC(C(=O)OCC(Cl)(Cl)Cl)=C | C5H4Cl3FO2
